US07405326B2
(2) Synthesis of N,N′-diphenyl-N— 1-naphthylbenzidine
Adding 0.66% by weight toluene solution in an amount of 100 microliter prepared by dissolving tri-t-butylphosphine into a mixed solution prepared by dissolving 4.50 g of 4-bromo-4′-(N-1-naphthyl-N-phenylamino)biphenyl, 1.11 g of aniline, 183 milligram of tris(dibenzylideneacetone)dipalladium(O) and 1.35 g of t-butoxysodium into toluene in an amount of 100 milliliter, the resultant solution was stirred at a room temperature for 5 hours. After the completion of the reaction, the solution was filtered with a use of celite and the filtrate was extracted with toluene. Concentrating the filtrate under a reduced pressure, the resultant crude product was refined by means of a column and as a result, 3.50 g of pale yellow powder was obtained

reactant | tri-t-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 4-bromo-4′-(N-1-naphthyl-N-phenylamino)biphenyl | 4.50 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12 | C28H20BrN
reactant | aniline | 1.11 g | NC1=CC=CC=C1 | C6H7N
reactant | t-butoxysodium | 1.35 g | C(C)(C)(C)O[Na]
catalyst | tris(dibenzylideneacetone)dipalladium(O) | 183 milligram | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N,N′-diphenyl-N— 1-naphthylbenzidine | 3.50 g | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(NC2=CC=CC=C2)C=C1)C1=CC=CC2=CC=CC=C12 | C34H26N2
